US05043348
2,5-Dimethyl-1-(methoxycarbonylmethyl)-pyrrole-3-aldehyde
17 ml (0.18 mol) of phosphorus oxychloride, 14 ml (0.18 mol) of anhydrous dimethylformamide and 30 g (0.18 mol) of methyl (2,5-dimethyl-pyrrol-1-yl)-acetate are reacted in 140 ml of 1,2-dichloroethane as described above.

reactant | phosphorus oxychloride | 0.18 mol, 17 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 0.18 mol, 14 ml | CN(C=O)C | C3H7NO
reactant | methyl (2,5-dimethyl-pyrrol-1-yl)-acetate | 0.18 mol, 30 g | CC=1N(C(=CC1)C)CC(=O)OC | C9H13NO2
solvent | 1,2-dichloroethane | 140 ml | ClCCCl | C2H4Cl2
product | 2,5-Dimethyl-1-(methoxycarbonylmethyl)-pyrrole-3-aldehyde | CC=1N(C(=CC1C=O)C)CC(=O)OC | C10H13NO3
